US09035062B2
(2S,5R)-Allyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (F1-3b)
46 mg of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid was dissolved in N,N-dimethylformamide (0.5 mL), and 21 mg of sodium hydrogen carbonate and 30 μL of allyl bromide were added, followed by stirring for 6.5 hours. Ethyl acetate was added to the reaction solution, followed by sequential washing with water and saturated brine and drying over anhydrous sodium sulfate, and the solvent was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane/ethyl acetate=3/1) to afford 7.5 mg of the title compound as a colorless solid (yield 14%). The resulting solid was recrystallized from ethyl acetate-hexane, the generated precipitate was filtered off, the wet crystal was washed with hexane, and subsequently dried under reduced pressure at room temperature to afford the title compound as a colorless crystalline powder. Enantiomeric excess: 99.9% ee or more (CHIRALPAK AD-H, 4.6×150 mm, hexane/ethanol=2/1, UV 210 nm, flow rate 1 mL/min., retention time 8.0 minutes).

reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 46 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | sodium hydrogen carbonate | 21 mg | C(O)([O-])=O.[Na+]
reactant | allyl bromide | 30 μL | C(C=C)Br | C3H5Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (2S,5R)-Allyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 7.5 mg, yield 14% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OCC=C | C17H20N2O4
